US09403835B2
Step 2: [2-(3-amino-piperidin-1-ylmethyl)-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone
{1-[2-(6-Chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-benzyl]-piperidin-3-yl}-carbamic acid tert-butyl ester (160 mg, 0.30 mmol) was added into a 4N solution of HCl in dioxane (2 mL, 8 mmol), followed by water (0.5 mL). The resulting mixture was stirred at RT for 2 hours, then concentrated under vacuum. The residue was taken up with water (5 mL) and a 1N aqueous solution of NaOH (15 mL), then extracted with DCM (2×25 mL). The organic layers were combined, dried (Na2SO4) and concentrated under vacuum. After purification by crystallization from ACN, the title compound was obtained as a white powder (46 mg, 35%). 1H NMR (DMSO-d6) δ 7.47-7.31 (m, 4H), 4.83 (s, 1H), 4.81 (s, 1H), 4.52 (s, 1H), 4.47 (s, 1H), 3.42 (br s, 2H), 2.85 (s, 1.5H), 2.80 (s, 1.5H), 2.70-2.43 (m, 5H), 2.23-2.09 (m, 1H), 1.88-1.74 (m, 1H), 1.65-1.52 (m, 1H), 1.46-1.31 (m, 2H), 1.25 (s, 2H), 1.02-0.83 (m, 1H), 0.83-0.65 (m, 1H). HPLC (max plot) 99.4%, Rt 2.21 min. UPLC/MS: (MS+) 439.3 ([M+H]+). Melting point: 165-170° C. (ACN).

reactant | {1-[2-(6-Chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-benzyl]-piperidin-3-yl}-carbamic acid tert-butyl ester | 0.30 mmol, 160 mg | C(C)(C)(C)OC(NC1CN(CCC1)CC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1)=O | C28H35ClN6O3
reactant | HCl | Cl | ClH
reactant | dioxane | 8 mmol, 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
product | [2-(3-amino-piperidin-1-ylmethyl)-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone | NC1CN(CCC1)CC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C23H27ClN6O
